US05936075
Synthesis of Galα1-3Galβ1-4GlcNH2 βSEt. Galβ1-4GlcNH2 βSEt is prepared as described above and used directly or after isolation as acceptor for a α1-3-D-galactosyltransferase (e.g. EC 2.4.1 151) reaction with a suitable glycosyl donor such as UDP-Gal.

reactant | Galα1-3Galβ1-4GlcNH2 | O([C@@H]1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO)[C@@H]1[C@H]([C@H](O[C@H]2[C@@H]([C@H](C(O)O[C@@H]2CO)N)O)O[C@@H]([C@@H]1O)CO)O | C18H33NO15
reactant | UDP-Gal | C1=CN(C(=O)NC1=O)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)O[C@@H]3[C@@H]([C@H]([C@H]([C@H](O3)CO)O)O)O)O)O | C15H24N2O17P2
product | Galβ1-4GlcNH2 | O([C@H]1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO)[C@H]1[C@@H]([C@H](C(O)O[C@@H]1CO)N)O | C12H23NO10
